US07091214B2
7-Bromo-2-ethoxymethyl-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine and thiophene-3-boronic acid were coupled according to the general procedure described in Part J of Example 1. Recrystallization from isopropanol followed by purification on silica gel (5% methanol in CH2Cl2 to 7% methanol in CH2Cl2 gradient) afforded 2-ethoxymethyl-1-isobutyl-7-(thiophen-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine as a pale yellow solid, m.p. 187–189° C.

reactant | 7-Bromo-2-ethoxymethyl-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)COCC | C17H21BrN4O
reactant | thiophene-3-boronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
product | 2-ethoxymethyl-1-isobutyl-7-(thiophen-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine | C(C)OCC=1N(C2=C(C(=NC=3C=C(C=CC23)C2=CSC=C2)N)N1)CC(C)C | C21H24N4OS
